US05972951
5'-(4'-Hydrazinocarbonyl-2'-methylbiphenyl-4-carbonyl)-1'-methyl-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine]
A solution of 5'(4'-methoxycarbonyl-2'-methylbiphenyl-4-carbonyl)-1'-methyl-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] (E22, 0.75 g, 1.5 mmole) in methanol (25 ml) was treated with hydrazine monohydrate (1.05 ml) and heated under reflux for 18 h. The reaction mixture was allowed to cool, then poured into water (50 ml) and the solid which precipitated out was filtered off and dried (0.61 g, 81%). A 50 mg portion was purified by preparative TLC on silica gel eluting with 20% methanol/chloroform to afford the title compound as a white solid mp. 130-135° C.

reactant | 5'(4'-methoxycarbonyl-2'-methylbiphenyl-4-carbonyl)-1'-methyl-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | 1.5 mmole, 0.75 g | COC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)C1C2(CCN(C1)C)COC1=CC=3CCNC3C=C12)C | C31H32N2O4
reactant | hydrazine monohydrate | 1.05 ml | O.NN
reactant | water | 50 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | 5'-(4'-Hydrazinocarbonyl-2'-methylbiphenyl-4-carbonyl)-1'-methyl-2,3,6,7-tetrahydrospiro[furo[2,3-f]indole-3,4'-piperidine] | N(N)C(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)C1C2(CCN(C1)C)COC1=CC=3CCNC3C=C12)C | C30H32N4O3
